* source ASTABLE_MULTIVIBRATOR
R_R3         Q2_B VCC  470k TC=0,0 
R_R4         Q2_C N001200  5k TC=0,0 
V_V1         VCC 0 9Vdc
R_R1         Q1_C N002240  5k TC=0,0 
R_R2         Q1_B VCC  470k TC=0,0 
C_C1         Q2_B Q1_C  0.47uF  TC=0,0 
C_C2         Q2_C Q1_B  0.47uF  TC=0,0 
D_D1         VCC N002240 LW_541C-TYP 
D_D2         VCC N001200 LW_541C-TYP 
Q_Q1         Q1_C Q1_B 0 MPS2222
Q_Q2         Q2_C Q2_B 0 MPS2222
